2166-12-08 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had multiple seizures during the day (3), gave IV Ativan with the
   last one, consulted neurology who recommended loading with 10mg/kg IV
   Depakote load and if he seizes again, give 2mg IV Ativan and then start
   1mg po TID standing
   - Mag low in the morning, repleted
   - Ate full lunch and ate dinner
   - Got records from [**Hospital1 587**], just showed he had a few ED visits in [**2161**] for
   seizures, treated with Ativan, and sent out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Lorazepam 1 mg IV ONCE MR1 Duration: 1 Doses Order date: [**12-7**] @ 1052
   2. Citalopram Hydrobromide 20 mg PO/NG DAILY  Order date: [**12-7**] @ 0822
   10. Magnesium Sulfate 4 gm IV ONCE Duration: 1 Doses Order date: [**12-7**]
   @ 1321
   3. Diazepam 5 mg IV Q2H:PRN CIWA > 10
   Use only if PO route not an option.  Order date: [**12-7**] @ 0742 11.
   Multivitamins 1 TAB PO/NG DAILY  Order date: [**12-7**] @ 0731
   4. Diazepam 5 mg PO/NG Q2H:PRN CIWA > 10
   Please hold for oversedation or benzo intoxication.  Order date: [**12-7**]
   @ 0742 12. Phenytoin Sodium Extended 300 mg PO DAILY  Order date: [**12-7**]
   @ 0822
   5. Divalproex (DELayed Release) 500 mg PO QAM  Order date: [**12-7**] @ 0822
   13. Senna 1 TAB PO/NG [**Hospital1 **]:PRN constipation  Order date: [**12-7**] @ 0731
   6. Divalproex (DELayed Release) 1000 mg PO QPM  Order date: [**12-7**] @
   0822 14. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-7**] @ 0731
   7. Docusate Sodium 100 mg PO BID  Order date: [**12-7**] @ 0731 15. Thiamine
   100 mg PO/NG DAILY  Order date: [**12-7**] @ 0731
   8. FoLIC Acid 1 mg PO/NG DAILY  Order date: [**12-7**] @ 0731 16. Valproate
   Sodium 750 mg IV ONCE Duration: 1 Doses Order date: [**12-7**] @ 1831
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-8**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 81 (81 - 105) bpm
   BP: 115/86(92) {110/79(87) - 143/104(113)} mmHg
   RR: 13 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  1,501 mL
                                                                    123 mL
   PO:
                                                                    700 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    801 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,025 mL
   Urine:
                                                                  1,900 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -399 mL
                                                                   -902 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   11.7 g/dL
   90 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   6 mg/dL
   101 mEq/L
   137 mEq/L
   35.6 %
   4.2 K/uL
        [image002.jpg]
                            [**2166-12-7**]  10:38 AM
                            [**2166-12-8**]  03:58 AM
   WBC
   4.1
   4.2
   Hct
   35.0
   35.6
   Plt
   122
   146
   Cr
   0.7
   0.7
   Glucose
   101
   90
   Other labs: PT / PTT / INR:12.2/25.4/1.0, Differential-Neuts:52.5 %,
   Lymph:39.3 %, Mono:5.8 %, Eos:2.0 %, Albumin:3.7 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: Phenytoin: 7.6 Valproate: 82
   Imaging: none
   Assessment and Plan
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   47 yo M with history of seizure disorder and EtOH abuse brought to ED
   by EMS after likely seizure at shelter.
   #. Seizures:
   Patient had question of seizure prior to presentation and additionally
   had a witnessed seizure in the ED and threee on [**12-7**] in ICU.. The ED
   was concerned for a withdrawal seizure; however, the time course
   appears to be too short after cessation of drinking for this. Also,
   patient not exhibiting florid signs of withdrawal prior to seizure in
   ICU as he was not anxious, not diaphoretic, and with minimal tremor.
   Most likely that his seizure threshold is simply markedly reduced
   surrounding time of alcohol intoxication and recovery. He has unknown
   level of seizure activity at baseline as he normally receives care at
   [**Hospital1 587**], though he reports several seizures per month that are not
   temporally related to his alcohol intake. Patient was therapeutic on
   his phenytoin and his divalproex.
   - Educate on seizure triggers
   - Contact outpatient neurologist to further characterize seizure
   history and to clarify medication regimen
   - F/u inpatient neurology recs- unclear why Depakote level in range at
   admission but not now.
   .
   #. EtOH abuse:
   Patient reports that he occasionally attends AA meeting, though
   expresses no strong desire to quit drinking at this time. No concern
   for acute withdrawal as the time frame is not appropriate. Still is
   reasonable to monitor with CIWA
   - Q2H CIWA with diazepam for coverage
   - Social work consult
   - Case management for housing at discharge
   - Thiamine, folate, multivitamins
   # thrombocytopenia: now resolving.  Was never more than 50% drop and
   timing and lack of thrombosis do not suggest HIT.
   -monitor daily
   ICU Care
   Nutrition: Regular diet as mental status allows
   Lines:
   18 Gauge - [**2166-12-7**] 06:49 AM
   20 Gauge - [**2166-12-7**] 06:50 AM
   Prophylaxis:
   -DVT ppx with heparin subcutaneous
   -Bowel regimen with senna and docusate
   Communication:  With patient
   Code status: Full code
   Disposition: ICU for now

2166-12-08 12:07:00 Physician Attending Progress Note
Chief Complaint: seizures, etoh
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   recurrent szs
   neuro consutled for assistance with sz management
   valproate bolused and level now therapeutic
   free dilantin level pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-8**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 119 (81 - 156) bpm
   BP: 126/80(89) {100/70(77) - 143/104(113)} mmHg
   RR: 26 (10 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  1,501 mL
                                                                    440 mL
   PO:
                                                                    700 mL
                                                                    320 mL
   TF:
   IVF:
                                                                    801 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,375 mL
   Urine:
                                                                  1,900 mL
                                                                  1,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -399 mL
                                                                   -935 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, non focal neuro
   exam
   Labs / Radiology
   11.7 g/dL
   146 K/uL
   90 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   6 mg/dL
   101 mEq/L
   137 mEq/L
   35.6 %
   4.2 K/uL
        [image002.jpg]
                            [**2166-12-7**]  10:38 AM
                            [**2166-12-8**]  03:58 AM
   WBC
   4.1
   4.2
   Hct
   35.0
   35.6
   Plt
   122
   146
   Cr
   0.7
   0.7
   Glucose
   101
   90
   Other labs: PT / PTT / INR:12.2/25.4/1.0, ALT / AST:69/224, Alk Phos /
   T Bili:58/0.4, Differential-Neuts:52.5 %, Lymph:39.3 %, Mono:5.8 %,
   Eos:2.0 %, Albumin:3.7 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Imaging: no imaging
   Microbiology: no cx data
   Assessment and Plan
   #Seizure: likely [**1-20**] underlying seizure disorder, with seizure
   threshold possibly lowered by alcohol and dehydration, recurrent
   - neuro input appreciated
   --continue depakote and dilantin, adjuting depakore and now awaiting
   free dilantin level pending additional changes to doses
   - ativan tid
   # Alcohol Dependence/Mental Status
   - no current evidence of withdrawal but too early as admitted
   intoxicated
   - on CIWA scale, will follow closely
   --Folate, thiamine, MVI
   # thomobocytopenia
follow, in setting of etoh
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-12-7**] 06:50 AM
   22 Gauge - [**2166-12-8**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2166-12-09 07:21:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint: Seizures
   24 Hour Events:
   -phenytoin low, but pharmacy said this could be false because assay
   measures bound phenytoin.  Sent free phenytoin level -> plan to give
   extra dose of 150 if <0.5.
   -seizure during rounds in AM, resolved with ativan
   -Neuro recs: tried to get patient transferred west to neuro floor, but
   west attending said no.  Patient has focal neuro deficits including
   left pronator drift on exam.  Ordered MRI, bedside 24 hour EEG and
   morning levels of dilantin and phenytoin.
   -went for MRI overnight
 MAGNETIC RESONANCE IMAGING - At [**2166-12-8**] 10:02 PM
   returned from MRI head
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-12-8**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-9**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 78 (74 - 156) bpm
   BP: 100/75(81) {84/63(68) - 134/101(105)} mmHg
   RR: 12 (8 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  1,015 mL
                  PO:
                                                                    710 mL
                  TF:
   IVF:
                                                                    305 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    475 mL
   Urine:
                                                                  1,850 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -835 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Gen: NAD
   CV: RRR nl s1/s2 no mrg
   Lungs: CTA b/l
   Abd: +BS, soft NTND
   Ext: no edema, NT
   Labs / Radiology
   156 K/uL
   11.5 g/dL
   90 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   8 mg/dL
   97 mEq/L
   131 mEq/L
   35.1 %
   6.0 K/uL
        [image002.jpg]
                            [**2166-12-7**]  10:38 AM
                            [**2166-12-8**]  03:58 AM
                            [**2166-12-9**]  03:58 AM
   WBC
   4.1
   4.2
   6.0
   Hct
   35.0
   35.6
   35.1
   Plt
   122
   146
   156
   Cr
   0.7
   0.7
   0.7
   Glucose
   101
   90
   90
   Other labs: PT / PTT / INR:12.8/27.6/1.1, ALT / AST:69/224, Alk Phos /
   T Bili:58/0.4, Differential-Neuts:52.5 %, Lymph:39.3 %, Mono:5.8 %,
   Eos:2.0 %, Albumin:3.7 g/dL, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   MRI Head read pending
   Phenytoin 8.1 (nl [**10-7**])
   Valproate 66 (nl 50-100)
   Free phenytoin pending
   Assessment and Plan
   47 yo M with history of seizure disorder and EtOH abuse brought to ED
   by EMS after likely seizure at shelter.
   #. Seizures: Patient had question of seizure prior to presentation and
   additionally had a witnessed seizure in the ED and threee on [**12-7**] in
   ICU.. The ED was concerned for a withdrawal seizure; however, the time
   course appears to be too short after cessation of drinking for this.
   Also, patient not exhibiting florid signs of withdrawal prior to
   seizure in ICU as he was not anxious, not diaphoretic, and with minimal
   tremor. Most likely that his seizure threshold is simply markedly
   reduced surrounding time of alcohol intoxication and recovery. He has
   unknown level of seizure activity at baseline as he normally receives
   care at [**Hospital1 587**], though he reports several seizures per month that are not
   temporally related to his alcohol intake. Patient was therapeutic on
   his phenytoin and his divalproex.
   - 24 hour EEG
   - FU final MRI read
   - Appreciate neuro recs
   - Educate on seizure triggers
   - Daily troughs for depakote and phenytoin
   - phenytoin level likely falsely low do to valproic acid loading dose.
   Will check free level and if still low (<0.5) give 300mg dose.
   - Continue ativan 1mg PO TID
   - Keep free dilantin between 1.5-2.0
   - Continue CIWA
   - [**Month (only) 8**] need to switch AED due to liver disease
   - Have obtained records that were available from [**Hospital1 587**], also was recently
   at [**Hospital1 12**] on [**11-22**] where he received dilantin load and was discharged from
   ED.  Gets other care at [**Doctor Last Name 6122**].
   - Seizure precautions
   - Continue phenytoin 300mg daily and divalproex 500mg qAM and 1000mg
   qhs
   #. EtOH abuse: Patient reports that he occasionally attends AA meeting,
   though expresses no strong desire to quit drinking at this time. No
   concern for acute withdrawal as the time frame is not appropriate.
   Still is reasonable to monitor with CIWA
   - Q2H CIWA with diazepam for coverage
   - Social work consult
   - Case management for housing at discharge
   - Thiamine, folate, multivitamins
   #. Thrombocytopenia: now resolving.  Was never more than 50% drop and
   timing and lack of thrombosis do not suggest HIT.
   -monitor daily
   #. Hyponatremia: Likely due to poor po intake of solutes, but could be
   due to ADH regulation disturbances with recent seizures.
   - Encourage po intake, monitor daily
   ICU Care
   Nutrition: Regular diet as mental status allows
   Glycemic Control:
   Lines: 20 Gauge - [**2166-12-7**] 06:50 AM
   22 Gauge - [**2166-12-8**] 05:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:
   VAP:
   Comments: Bowel regimen with senna and docusate
   Communication:  Comments: With patient; Emergency Contact: [**Name (NI) 10608**]
   [**Name (NI) 2318**] (mother) [**Telephone/Fax (1) 10609**]
   Code status: Full code
   Disposition: Call out to medicine floor

2166-12-09 12:51:00 Physician Attending Progress Note
Chief Complaint: seizures, etoh intoxication
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   no further sz activity overnight
   MAGNETIC RESONANCE IMAGING - At [**2166-12-8**] 10:02 PM over night
   24 hr eeg ongoing
   started on TID ativan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-12-9**] 08:14 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-9**] 12:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.6
   HR: 103 (74 - 110) bpm
   BP: 92/62(69) {84/54(68) - 134/101(105)} mmHg
   RR: 16 (8 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  1,015 mL
                                                                    920 mL
   PO:
                                                                    710 mL
                                                                    870 mL
   TF:
   IVF:
                                                                    305 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    475 mL
   Urine:
                                                                  1,850 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -835 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   11.5 g/dL
   156 K/uL
   90 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   8 mg/dL
   97 mEq/L
   131 mEq/L
   35.1 %
   6.0 K/uL
        [image002.jpg]
                            [**2166-12-7**]  10:38 AM
                            [**2166-12-8**]  03:58 AM
                            [**2166-12-9**]  03:58 AM
   WBC
   4.1
   4.2
   6.0
   Hct
   35.0
   35.6
   35.1
   Plt
   122
   146
   156
   Cr
   0.7
   0.7
   0.7
   Glucose
   101
   90
   90
   Other labs: PT / PTT / INR:12.8/27.6/1.1, ALT / AST:69/224, Alk Phos /
   T Bili:58/0.4, Differential-Neuts:52.5 %, Lymph:39.3 %, Mono:5.8 %,
   Eos:2.0 %, Albumin:3.7 g/dL, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   # Seizures: known underlying seizure disorder, with seizure threshold
   lowered by alcohol and dehydration,
   Has been sz free X 24 hrs, have educated regarding role of ETOH in
   recurrent szs
   - neuro input appreciated
   --continue depakote, dilantin and Ativan, AED levels therapeutic
   - sz precautions
   --f/u brain MRI read
   --24 hr eeg ongoing
   # Alcohol Dependence
   - CIWA scale
   --Folate, thiamine, MVI
   --continue to address possible rehab with help of SW
   # thombocytopenia
 in setting of etoh, improving
   # hyponatremia--? Sz related or [**1-20**] po intake, trend sodium, if
   decreases, send osms and u lytes
   ICU Care
   Nutrition:
   Comments: PO
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-12-7**] 06:50 AM
   22 Gauge - [**2166-12-8**] 05:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable to transfer to floor, medicine service
   Total time spent: 35 minutes